US07192982B2
(1R*,3S*)-[3-(Biphenyl-4-yloxy)-cyclopentyloxy]-tert-butyl-dimethyl-silane
A solution of triphenylphosphine (0.195 g, 0.742 mmol) in 5 mL of dry THF was treated at 0° C. with diethylazodicarboxylate (0.117 mL, 0.742 mmol) and stirred for 20 min. A solution of (1R*,3R*)-3-(tert-butyldimethylsilanyloxy)cyclopentanol (0.146 g, 0.675 mmol) and 4-phenyl phenol (0.126 g, 0.0.724 mmol) in 5 mL of dry THF was added to the solution, and the mixture was stirred at room temperature overnight. The solution was concentrated under vacuum and purified by silica gel chromatography (silica gel, hexanes/ethyl acetate 6:1, Rf0.66). 1H-NMR (200.15 MHz, CDCl3): δ 7.58–7.29 (m, 7H); 6.93 (d, 2H, J=8.92), 4.76–4.65 (m, 1H), 4.32–4.21 (m, 1H), 2.38 (qn, 1H, J=7.0), 2.04–1.94 (m, 2H), 1.87–1.78 (m, 3H), 0.90 (s, 9H), 0.07 (s, 3H), 0.06 (s, 3H).

reactant | triphenylphosphine | 0.742 mmol, 0.195 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.742 mmol, 0.117 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (1R*,3R*)-3-(tert-butyldimethylsilanyloxy)cyclopentanol | 0.675 mmol, 0.146 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC1)O | C11H24O2Si
reactant | 4-phenyl phenol | 0.126 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1R*,3S*)-[3-(Biphenyl-4-yloxy)-cyclopentyloxy]-tert-butyl-dimethyl-silane | C1(=CC=C(C=C1)O[C@@H]1C[C@@H](CC1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C23H32O2Si
